US09034850B2
Step B. 2-(tert-butyl-dimethyl-silanyloxy)-2-phenyl-ethanol
To a solution of [(R)-1,2-bis-(tert-butyl-dimethyl-silanyloxy)-ethyl]-benzene (625 mg, 1.7 mmol) in methanol (3 mL) was slowly added ferric chloride III) (276 mg, 1.7 mmol) with stirring at room temperature. When the reaction was monitored to be completed about 25 min after the addition, an aqueous saturated sodium bicarbonate solution was added. The solution was extracted with ethyl ether and the organic layer thus formed was separated. To the organic layer was added sodium sulfate, followed by stirring for 5 min and filtering. The filtrate was concentrated and dried in a vacuum, and the residue was purified using silica gel chromatography (eluent: hexane/ethyl acetate, 16/1) and dried in a vacuum to afford 270 mg of the compound as a colorless oil (yield 63%).

reactant | [(R)-1,2-bis-(tert-butyl-dimethyl-silanyloxy)-ethyl]-benzene | 1.7 mmol, 625 mg | C(C)(C)(C)[Si](O[C@@H](CO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)(C)C | C20H38O2Si2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 2-(tert-butyl-dimethyl-silanyloxy)-2-phenyl-ethanol | 270 mg, yield 63% | C(C)(C)(C)[Si](OC(CO)C1=CC=CC=C1)(C)C | C14H24O2Si
